US08071807B2
Step 1: {3-[4-(2-Chloro-ethoxycarbonylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 3, Step 6, using the following starting materials: {3-[4-amino-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester and 2-chloroethyl chloroformate.

reactant | {3-[4-amino-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CSCC(F)(F)F)=O | C20H22F3NO4S
reactant | 2-chloroethyl chloroformate | ClC(=O)OCCCl | C3H4Cl2O2
product | {3-[4-(2-Chloro-ethoxycarbonylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(=O)OCCCl)CSCC(F)(F)F)=O | C23H25ClF3NO6S
